US08242111B2
(S)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(5-methoxypyrimidin-2-yl)pyrrolidin-3-yl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-pyrrolidin-3-yl)-1,3-oxazinan-2-one and 2-chloro-5-methoxypyrimidine following a procedure analogous to that described in Example 1 heating at 150° C. for 20 min. LC-MS Method 1 tR=1.27 min. min, m/z=427(M+1); 1H NMR (CD3OD) 8.17(d, 2H), 7.37(m, 5H), 4.79(m, 1H), 3.82(s, 3H), 3.67(m, 2H), 3.49(m, 1H), 3.78(m, 1H), 2.52(m, 2H), 2.24(m, 2H), 2.18(s, 2H), 1.24(s, 3H), 0.94(s, 3H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-pyrrolidin-3-yl)-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H]1CNCC1)C1=CC=CC=C1)(C)C | C18H26N2O3
reactant | 2-chloro-5-methoxypyrimidine | ClC1=NC=C(C=N1)OC | C5H5ClN2O
product | (S)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(5-methoxypyrimidin-2-yl)pyrrolidin-3-yl)-6-phenyl-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H]1CN(CC1)C1=NC=C(C=N1)OC)C1=CC=CC=C1)(C)C | C23H30N4O4
